US04645765
To a solution of 6,9-dihydroxy-8-hydroxymethyl-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-triene-4-carbaldehyde (98 mg) in methanol (3 ml) was added acetic anhydride (40 μl). The mixture was stirred for 1 hour at ambient temperature and evaporated in vacuo. The residue was subjected to preparative thin layer chromotography, which was developed with a mixture of chloroform and methanol (10:1, v/v) to afford 11-acetyl-6,9-dihydroxy-8-hydroxymethyl-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-triene-4-carbaldehyde (71 mg).

reactant | 6,9-dihydroxy-8-hydroxymethyl-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-triene-4-carbaldehyde | 98 mg | OC=1C=C(C=C2N3CC4NC4C(C(C12)CO)(O3)O)C=O | C13H14N2O5
reactant | acetic anhydride | 40 μl | C(C)(=O)OC(C)=O | C4H6O3
solvent | methanol | 3 ml | CO | CH4O
product | 11-acetyl-6,9-dihydroxy-8-hydroxymethyl-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-triene-4-carbaldehyde | 71 mg | C(C)(=O)N1C2C3(C(C4=C(C=C(C=C4N(CC12)O3)C=O)O)CO)O | C15H16N2O6
